US08492405B2
To a mixture of 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (1.0 g), tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate (944 mg), 1H-1,2,3-benzotriazol-1-ol (0.6 g), tetrahydrofuran (20 mL) and acetonitrile (20 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.8 g), and the mixture was stirred at room temperature for 30 min. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give a colorless oil. To a solution of triphenylphosphine oxide (2.34 g) in acetonitrile (20 mL) was slowly added trifluoromethanesulfonic anhydride (0.71 mL) at 0° C., the mixture was stirred for 10 min, and the colorless oil was added. The reaction mixture was stirred at room temperature for 3 hr and concentrated. Saturated aqueous sodium hydrogen carbonate was added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give N-{[4-(benzylthio)piperidin-4-yl]methyl}-2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide (1.03 g, yield 79%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:20→1:1, volume ratio). melting point 222° C.

reactant | 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 1.0 g | CC1=C(C=2NC(=CC2S1)C(=O)O)N(S(=O)(=O)C=1SC=CC1)C | C13H12N2O4S3
reactant | tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate | 944 mg | NCC1(CCN(CC1)C(=O)OC(C)(C)C)SCC1=CC=CC=C1 | C18H28N2O2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.6 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.8 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | triphenylphosphine oxide | 2.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.71 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-{[4-(benzylthio)piperidin-4-yl]methyl}-2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide | 1.03 g, yield 79% | C(C1=CC=CC=C1)SC1(CCNCC1)CNC(=O)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C | C26H30N4O3S4
